.SUBCKT gf180mcu_fd_sc_mcu9t5v0__dffnsnq_4 D SETN CLKN Q VDD VSS
*.PININFO D:I SETN:I CLKN:I Q:O VDD:P VDD:P VSS:P VSS:G
M_tn0 ncki CLKN VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_tn3 cki ncki VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_tn10 net13 D VSS VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn6 net13 cki net3 VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn4 net3 ncki net14 VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn5 VSS net4 net14 VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn2 net0 net3 VSS VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn1 net4 SETN net0 VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn13 net5 ncki net4 VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn12 net7 cki net5 VSS nmos_6p0 W=0.750000U L=0.600000U
M_tn14 net1 SETN net7 VSS nmos_6p0 W=0.750000U L=0.600000U
M_tn15 VSS net6 net1 VSS nmos_6p0 W=0.590000U L=0.600000U
M_tn18 net6 net5 VSS VSS nmos_6p0 W=0.750000U L=0.600000U
M_tn16_30 VSS net6 Q VSS nmos_6p0 W=1.320000U L=0.600000U
M_tn16 VSS net6 Q VSS nmos_6p0 W=1.320000U L=0.600000U
M_tn16_30_46 VSS net6 Q VSS nmos_6p0 W=1.320000U L=0.600000U
M_tn16_51 VSS net6 Q VSS nmos_6p0 W=1.320000U L=0.600000U
M_tp0 ncki CLKN VDD VDD pmos_6p0 W=1.380000U L=0.500000U
M_tp4 cki ncki VDD VDD pmos_6p0 W=1.380000U L=0.500000U
M_tp8 VDD D net13 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp9 net3 ncki net13 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp6 net10 cki net3 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp5 VDD net4 net10 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp3 net4 net3 VDD VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp2 VDD SETN net4 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp18 net5 cki net4 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp17 net7 ncki net5 VDD pmos_6p0 W=1.100000U L=0.500000U
M_tp12 net7 SETN VDD VDD pmos_6p0 W=1.100000U L=0.500000U
M_tp13 VDD net6 net7 VDD pmos_6p0 W=1.000000U L=0.500000U
M_tp16 net6 net5 VDD VDD pmos_6p0 W=1.100000U L=0.500000U
M_tp14_24 VDD net6 Q VDD pmos_6p0 W=1.830000U L=0.500000U
M_tp14 VDD net6 Q VDD pmos_6p0 W=1.830000U L=0.500000U
M_tp14_24_63 VDD net6 Q VDD pmos_6p0 W=1.830000U L=0.500000U
M_tp14_44 VDD net6 Q VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
